Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Demerol
 
Attending: ___.
 
Chief Complaint:
Abdominal pain  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ history of chronic abdominal pain of 
unclear etiology, difficulty gaining weight, and osteoporosis 
who presents to the ED complaining of abdominal pain. The 
patient reports that two days ago she felt malaise and nausea, 
and then began having abdominal pain yesterday with an episode 
of vomiting. She reports the pain is in her lower right back and 
radiates to her right upper quadrant in the front. Pain is off 
and on, coming in paroxysms which last approximately ___ 
minutes once or twice per hour. She does not have pain 
in-between the paroxysms. She reports that the pain feels 
similar to prior episodes of kidney stones. She has had similar 
pain/nausea several times over the last ___ years that has been 
worked up with no definitive diagnosis including negative H. 
pylori breath testing, negative TTG, EGD, and colonoscopy. RUQ 
ultrasound was also previously performed which did not 
demonstrate cholelithiasis. She denies fevers or chills, 
hematuria. She has had occassional diarrhea and loose stools. 
She has been passing gas today. She has been having decreased 
p.o. intake due to pain. Patient reports a ___ pound weight loss 
over the past year and has been unable to gain weight despite 
attempts, though PCP notes suggest her low weight is chronic.  
In the ED intial vitals were 98.3 93 140/61 18 100%. Initial 
labs demonstrated unremarkable CBC, unremarkable chem-7, a 
lipase of 97 (baseline ___, lactate 2.1, and UA with small 
leukesterase, 6 WBCs, and few bacteria. A CTAP was performed 
which preliminarily demonstrated no acute pathology in the 
abdomen or pelvis to explain the patient's symptoms. Bilateral 
nonobstructing renal stones were again seen. The patient was 
admitted for further management.  
Upon arrival to the floor, initial vital signs were 98.3 128/71 
91 98%RA. The patient corroborated the above history. She is 
currently asymptomatic.  
 
Review of Systems:  
(+) Per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria. 
 
Past Medical History:
Chronic GI symptoms  
Osteoporosis  
Fibroids  

 
Social History:
___
Family History:
mother with ___
 
Physical Exam:
VS: 98.3 128/71 91 98%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: Supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal 
 
Pertinent Results:
LABS:

___ 10:25PM BLOOD WBC-9.4 RBC-4.18* Hgb-12.4 Hct-38.3 
MCV-91 MCH-29.6 MCHC-32.4# RDW-12.3 Plt ___
___ 10:25PM BLOOD Neuts-73.6* Lymphs-17.8* Monos-7.8 
Eos-0.4 Baso-0.4
___ 10:25PM BLOOD Glucose-87 UreaN-11 Creat-0.4 Na-142 
K-4.3 Cl-106 HCO3-27 AnGap-13
___ 10:25PM BLOOD ALT-25 AST-28 AlkPhos-61 TotBili-0.5
___ 10:25PM BLOOD Lipase-97*
___ 10:25PM BLOOD Albumin-4.9
___ 10:34PM BLOOD Lactate-2.1*
___ 10:25PM URINE Color-Straw Appear-Clear Sp ___
___ 10:25PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM 
___ 10:25PM URINE RBC-1 WBC-6* Bacteri-FEW Yeast-NONE 
Epi-<1

UCX:
___ 10:25 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

CT ABD:
IMPRESSION: 
  
1. No acute pathology in the abdomen or pelvis.  No evidence of 
findings to explain the patient's symptoms. 
2. Bilateral nonobstructing renal stones are again seen.    
3. Fibroid uterus. 
 
Brief Hospital Course:
Ms. ___ is a ___ with history of chronic abdominal pain/GI 
symptoms and non-obstructing nephrolithiasis presenting with an 
episode of abdominal pain and nausea likely from renal colic.
  
1. Renal colic: Stones are nonobstructing and not significantly 
changed. She has seen urology and nephrology in the past. No 
evidence of pancreatitis despite mildly elevated lipase (which 
is near baseline). She underwent a CT that again showed the 
non-obstructing stones and fibroid uterus, but was otherwise 
normal. She was educated about kidney stone precautions 
including hydration, pain control with tylenol and ibuprofen, 
and compazine for nausea. She was advised to continue the 
recommendations given to her at the time of prior nephrology 
consultation.
  
2. Osteoporosis: Continue home calcium, vitamin D regimen  

3. Bereavement: The patient recently lost her mother. She has 
adequate family support at home.
 
# Code: Full (discussed with patient)  
# Emergency Contact: ___ (sister) ___  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Calcium Carbonate 1500 mg PO DAILY 
3. Ascorbic Acid Dose is Unknown  PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Calcium Carbonate 1500 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 
4. Acetaminophen 1000 mg PO Q8H:PRN pain 
5. Ibuprofen 600 mg PO Q8H:PRN pain 
Take with food. If stomach intolerance, call Dr. ___. 
6. Ascorbic Acid ___ mg PO DAILY 
7. Prochlorperazine 10 mg PO Q6H:PRN nausea 
RX *prochlorperazine maleate 10 mg 1 tablet(s) by mouth Every 6 
hours Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Renal Colic
Nausea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with renal colic from your 
known kidney stones and nausea. We spoke about different options 
to help reduce the painful colic and to prevent nausea. 

See medication adjustments below. 

If these problems continue, please have Dr. ___ you 
back to a urologist to deal with the kidney stones. Also, please 
have Dr. ___ a lipase level (a marker of pancreas 
inflammation) at your next visit.
 
Followup Instructions:
___